US04027023
Amyl nitrite (2 ml.) was added to a stirred suspension of ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate (2 g.) in anisole (250 ml.). The suspension was stirred and heated on a steam bath for 3 hours. The resulting solution was filtered whilst hot and the filtrate was evaporated. The residue was applied to a silica column (100 g. of Kieselgel 60) and eluted with a 10% v/v mixture of dry ethanol and chloroform. The appropriate fractions were evaporated, the residual solid [ethyl 4-hydroxy 6-(methoxyphenyl)cinnolin-3-yl carboxylate] was dissolved in thionyl chloride (50 ml.), and dimethylformamide (5 drops) added. The solution was heated under reflux until gaseous evolution ceased. The solution was then evaporated under reduced pressure, the residue dissolved in dry toluene (20 ml.), and the solution evaporated to dryness. The residue was dissolved in a mixture of dimethylformamide (2 ml.) and ethyl acetate (50 ml.), and sodium borohydride (0.5 g.) was added. The mixture was stirred for 2 hours at room temperature and then added to a mixture of N-hydrochloric acid (10 ml.) and ethyl acetate (50 ml.). The mixture was separated and the ethyl acetate layer was washed with water (3× 20 ml.), dried (MgSO4), and filtered. There was thus obtained the solution of ethyl 6-(methoxyphenyl)-1,4-dihydrocinnolin-3-yl carboxylate (believed to be a mixture of isomers varying in the position of the methoxy radical on the phenyl substituent) which was used as starting material in this Example.

reactant | Amyl nitrite | 2 ml | N(=O)OCCCCC | C5H11NO2
reactant | ethyl 6-amino-4-hydroxycinnolin-3-yl carboxylate | 2 g | NC=1C=C2C(=C(N=NC2=CC1)C(=O)OCC)O | C11H11N3O3
reactant | anisole | 250 ml | C1(=CC=CC=C1)OC | C7H8O
product | ethyl 6-(methoxyphenyl)-1,4-dihydrocinnolin-3-yl carboxylate | COC1=C(C=CC=C1)C=1C=C2CC(=NNC2=CC1)C(=O)OCC | C18H18N2O3
